US09056859B2
Sodium bis(trimethylsilyl)amide (2 mL, 4 mmol, 2M in THF) was added to a stirred suspension of (methoxy methyl)triphenylphosphonium chloride (1.47 g, 4.29 mmol) in dry THF (20 mL) at 0° C. for 35 min and a solution of 1-oxo-2,3-dihydro-1H-indene-4-carbonitrile (450 mg, 2.86 mmol) in THF (10 mL) added over 10 min. The mixture was stirred at 0° C. for 2 h and at room temperature for 1 h. Water was added and the mixture was partitioned between EtOAc and brine. The organic layer was dried and concentrated. The crude product was purified via prep-TLC (PE:EtOAc=10:1) to afford (1E)-1-[(methyloxy)methylidene]-2,3-dihydro-1H-indene-4-carbonitrile. 1H-NMR (400 MHz, CDCl3) δ ppm 8.00 (d, J=8.3 Hz, 0.4H), 7.42 (d, J=8.3 Hz, 0.6H), 7.30-7.40 (m, 1H), 7.18-7.22 (m, 1H), 6.70 (s, 0.6H), 6.22 (s, 0.4H), 3.72 (s, 3H), 3.15 (t, J=5.7 Hz, 2H), 2.70-2.82 (m, 2H).

reactant | Sodium bis(trimethylsilyl)amide | 4 mmol, 2M, 2 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | (methoxy methyl)triphenylphosphonium chloride | 4.29 mmol, 1.47 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 1-oxo-2,3-dihydro-1H-indene-4-carbonitrile | 2.86 mmol, 450 mg | O=C1CCC=2C(=CC=CC12)C#N | C10H7NO
reactant | Water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (1E)-1-[(methyloxy)methylidene]-2,3-dihydro-1H-indene-4-carbonitrile | CO\C=C\1/CCC=2C(=CC=CC12)C#N | C12H11NO
